US07855194B2
[1-(3-Ethoxy-4-methoxy-benzyl)-piperidin-4-yl]-carbamic acid tert-butyl ester
A mixture of piperidin-4-yl-carbamic acid tert-butyl ester (10.0 g, 50.0 mmol, 1.0 equiv; commercially available), 3-ethoxy-4-methoxy-benzaldehyde (10.8 g, 60.0 mmol, 1.2 equiv; commercially available) and acetic acid (11.4 mL, 200.0 mmol, 4.0 equiv) in ethanol (40 mL) was heated by microwave irradiation to 100° C. for 5 min. Sodium cyano borohydride (6.27 g, 100.0 mmol, 2.0 equiv), dissolved in ethanol (20 mL), was added and the reaction mixture heated by microwave irradiation to 100° C. for an additional time period of 5 min. The solvent was removed under reduced pressure and the crude reaction product extracted from a solution of 1 M NaOH (200 mL) with ethyl acetate (3×100 mL). The combined organic phases were dried over MgSO4, concentrated by evaporation under reduced pressure and the crude material purified with column chromatography on silica eluting with ethyl acetate to yield 9.71 g (53%) of the title compound as a white solid. MS (ISP): 365.3 [M+H]+.

reactant | piperidin-4-yl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1CCNCC1)=O | C10H20N2O2
reactant | 3-ethoxy-4-methoxy-benzaldehyde | C(C)OC=1C=C(C=O)C=CC1OC | C10H12O3
reactant | acetic acid | 200.0 mmol, 11.4 mL, 4.0 equiv | C(C)(=O)O | C2H4O2
reactant | Sodium cyano borohydride | 100.0 mmol, 6.27 g, 2.0 equiv | C(#N)[BH3-].[Na+]
solvent | ethanol | 40 mL | C(C)O | C2H6O
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | [1-(3-Ethoxy-4-methoxy-benzyl)-piperidin-4-yl]-carbamic acid tert-butyl ester | 9.71 g, 53% | C(C)(C)(C)OC(NC1CCN(CC1)CC1=CC(=C(C=C1)OC)OCC)=O | C20H32N2O4
